US04191770
15.7 g of acetylchloride are added dropwise to a solution of 39.5 g of 2-phenyl-5-chloromethyloxazolidine in a mixture of 150 ml of chloroform and 16 ml of pyridine at a temperature of -40° C. under agitation. The solution is allowed to warm up to room temperature. After a reaction period of 14 hours, 100 ml of concentrated hydrochloric acid are added. After thoroughly mixing, the aqueous phase is separated and diluted with water to twice its volume and then is saturated with sodium chloride. By extracting the aqueous phase with methylene chloride, drying the methylene-chloride-extract and evaporating the solvent, 19.7 g of N-acetyl-3-chloro-1-aminopropan-2-ol is obtained as an oil which can be used in the following reaction without any purification.

reactant | acetylchloride | 15.7 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-phenyl-5-chloromethyloxazolidine | 39.5 g | C1(=CC=CC=C1)C1OC(CN1)CCl | C10H12ClNO
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
product | N-acetyl-3-chloro-1-aminopropan-2-ol | 19.7 g | C(C)(=O)NCC(CCl)O | C5H10ClNO2
